US04668693
A mixture of 1.06 g of 1-chloromethyl-2-bromo-4,5-dichloroimidazole, 0.54 g of sodium ethoxide and 40 ml of ethanol was heated under reflux for 10 hours. The reaction mixture was then concentrated under reduced pressure to obtain an oily product. This product was purified by column chromatography on silica gel to obtain 0.25 g of 1-ethoxymethyl-2-bromo-4,5-dichloroimidazole.

reactant | 1-chloromethyl-2-bromo-4,5-dichloroimidazole | 1.06 g | ClCN1C(=NC(=C1Cl)Cl)Br | C4H2BrCl3N2
reactant | sodium ethoxide | 0.54 g | [O-]CC.[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-ethoxymethyl-2-bromo-4,5-dichloroimidazole | 0.25 g | C(C)OCN1C(=NC(=C1Cl)Cl)Br | C6H7BrCl2N2O
